US05854268
a) N-tert-Butyloxycarbonyl-(S)-1-(4-nitrophenyl)ethylamine
To a suspension of (S)-1-(4-nitrophenyl)ethylamine hydrochloride (2.12 g, 10.4 mmol) in anhydrous dichloromethane (50 ml) was added triethylamine (1.45 ml). A solution of di-tert-butyldicarbonate (2.28 g) in anhydrous dichloromethane (50 ml) was added and the reaction allowed to stand for 18 h. The reaction was washed with water, dried (MySO4), concentrated and purified by chromatography on silica gel using 1:1 ethyl acetate:petroleum ether as eluant. The title compound was obtained as a yellow oil which crystallised slowly.

reactant | (S)-1-(4-nitrophenyl)ethylamine hydrochloride | 10.4 mmol, 2.12 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)[C@H](C)N
reactant | triethylamine | 1.45 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 2.28 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-tert-Butyloxycarbonyl-(S)-1-(4-nitrophenyl)ethylamine | C(C)(C)(C)OC(=O)N[C@@H](C)C1=CC=C(C=C1)[N+](=O)[O-] | C13H18N2O4
